US05502044
4-amino-2-fluoro-androsta-1,4,6-triene-3,17-dione hydrochloride (I, A is >C=O, R=R2 =H, R1 =F, x=double bond)
A solution of 4-amino-2-fluoro-androsta-1,4,6-triene-3,17-dione (3.154 g, 10 mmol) in ethanol (100 ml) was treated with 0.1N hydrochloric acid (100 ml, 10 mmol).

reactant | 4-amino-2-fluoro-androsta-1,4,6-triene-3,17-dione | 10 mmol, 3.154 g | NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=C(C1=O)F)C)=O | C19H22FNO2
reactant | hydrochloric acid | 10 mmol, 0.1N, 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-amino-2-fluoro-androsta-1,4,6-triene-3,17-dione hydrochloride | Cl.NC1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=C(C1=O)F)C)=O | InChI=1S/C19H22FNO2.ClH/c1-18-8-7-12-10(11(18)5-6-15(18)22)3-4-13-16(21)17(23)14(20)9-19(12,13)2;/h3-4,9-12H,5-8,21H2,1-2H3;1H/t10-,11-,12-,18-,19+;/m0./s1
